US07781612B2
FSO2(CF2)3OCF(CF3)COF is added dropwise to a flask under cooling with ice, into which potassium bicarbonate and monoglyme are charged, with stirring. After completion of the dropwise addition, stirring is continued further for 30 minutes, and then the solvent is distilled off. Vacuum drying is further carried out to obtain FSO2(CF2)3OCF(CF3)COOK.

reactant | FSO2(CF2)3OCF(CF3)COF | FS(=O)(=O)C(F)(F)C(F)(F)C(F)(F)OC(F)(C(F)(F)F)C(=O)F | C6F12O4S
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | monoglyme | C(OC)COC | C4H10O2
product | FSO2(CF2)3OCF(CF3)COOK | FS(=O)(=O)C(F)(F)C(F)(F)C(F)(F)OC(F)(C(F)(F)F)C(=O)O[K] | InChI=1S/C6HF11O5S.K/c7-2(1(18)19,4(10,11)12)22-5(13,14)3(8,9)6(15,16)23(17,20)21;/h(H,18,19);/q;+1/p-1
